US08283442B2
To a mixture of 1H-pyrazol-3-ylamine (8.3 g, 100 mmol), acetone (7.4 mL, 100 mmol) and acetic acid (12 mL, 200 mmol) in THF (280 mL) was added, in portions, sodium triacetoxyborohydride (27 g, 120 mmol) while cooling with an ice-water bath. The mixture was stirred at room temperature for 1 h and then at 50° C. for 3 h. After cooling to room temperature, 10 N NaOH (40 mL) was added dropwise, and stirred gently for 1 h. The clear solution was isolated with decantation. The gummy residue was washed with THF (2×50 mL). All the THF solutions were combined and concentrated. The residue was purified by silica gel column chromatography (EtOAc), affording isopropyl-(1H-pyrazol-3-yl)-amine (8.5 g, 68%) as a colorless oil. 1H NMR (300 MHz, CDCl3): δ 7.34 (d, 1H), 5.62 (d, 1H), 3.58 (m, 1H), 1.22 (d, 6H).

reactant | 1H-pyrazol-3-ylamine | 100 mmol, 8.3 g | N1N=C(C=C1)N | C3H5N3
reactant | acetone | 100 mmol, 7.4 mL | CC(=O)C | C3H6O
reactant | acetic acid | 200 mmol, 12 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 120 mmol, 27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 10 N, 40 mL | [OH-].[Na+]
solvent | THF | 280 mL | C1CCOC1 | C4H8O
product | isopropyl-(1H-pyrazol-3-yl)-amine | 8.5 g, 68% | C(C)(C)NC1=NNC=C1 | C6H11N3
